US07276610B2
(3-{[3-(2-Isopropoxy-phenoxy)-propylamino]-methyl}-phenyl)-piperidin-1-yl-methanone
2-[3-(2-Isopropoxy-phenoxy)-propyl]-isoindole-1,3-dione. To a solution of 2-isopropoxy-phenol (0.50 g, 3.3 mmol) in DMF (5 mL) was added K2CO3 (2.3 g, 17 mmol), and the resulting suspension was stirred at 25° C. for 15 min. A solution of 2-(3-bromo-propyl)-isoindole-1,3-dione (0.97 g, 3.6 mmol) in DMF (2 mL) was added, and the reaction mixture was heated to 80° C. for 18 h. The mixture was filtered, and the filtrate was diluted with 1:1 Et2O/EtOAc (100 mL), washed with H2O (2×20 mL) then brine (20 mL), dried (MgSO4), filtered, and concentrated under reduced pressure. The crude residue was purified by column chromatography (5-20% EtOAc/hexanes) to provide the desired product (0.956 g, 87%). 1H NMR (400 MHz, CDCl3): 7.87-7.82 (m, 2H), 7.73-7.69 (m, 2H), 6.93-6.86 (m, 4H), 4.46 (hept, J=6.1 Hz, 1H), 4.06 (t, J=6.2 Hz, 2H), 3.92 (t, J=7.1 Hz, 2H), 2.20 (quint, J=6.4 Hz, 2H), 1.33 (d, J=6.1 Hz, 6H).

reactant | 2-[3-(2-Isopropoxy-phenoxy)-propyl]-isoindole-1,3-dione | C(C)(C)OC1=C(OCCCN2C(C3=CC=CC=C3C2=O)=O)C=CC=C1 | C20H21NO4
reactant | 2-isopropoxy-phenol | 3.3 mmol, 0.50 g | C(C)(C)OC1=C(C=CC=C1)O | C9H12O2
reactant | K2CO3 | 17 mmol, 2.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(3-bromo-propyl)-isoindole-1,3-dione | 3.6 mmol, 0.97 g | BrCCCN1C(C2=CC=CC=C2C1=O)=O | C11H10BrNO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (3-{[3-(2-Isopropoxy-phenoxy)-propylamino]-methyl}-phenyl)-piperidin-1-yl-methanone | 0.956 g, 87% | C(C)(C)OC1=C(OCCCNCC=2C=C(C=CC2)C(=O)N2CCCCC2)C=CC=C1 | C25H34N2O3
